### PR TITLE
Alternative Proof of Gauss Integral with improper integral

### PR DESCRIPTION
**Pull request by IshiguroYoshihiro**
##### Motivation for this change
I added an alternative proof of gauss integral and placed it in theories/showcase.
This is an experimental approach of improper integral.
The difference of proof strategy is that this version mainly relies on lemmas related to integration over unbounded intervals.

[NB(rei): this is the continuation of PR #1584 ]

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/gauss_integral.v [hunk 1]
```diff
@@ -81,10 +81,10 @@ Qed.
 
 Definition u x t := expR (- x ^+ 2 * oneDsqr t) / oneDsqr t.
```
Comment (t6s) [inline theories/gauss_integral.v:82]: It looks horrible to pollute the global namespace by a single-letter identifier.
`Local Definition` may suffice?
(And similarly `Local Lemma` for lemmas with "u" in their names below)

Comment (affeldt-aist) [reply theories/gauss_integral.v:82]: Note that it is in a `Module`.

Comment (t6s) [reply theories/gauss_integral.v:82]: oops, I overlooked that

File: theories/showcase/gauss_integral_unbounded.v [hunk 2]
```diff
@@ -0,0 +1,590 @@
...
+  by apply: cvgV => //; exact: continuous_expR.
+- by move=> x x1; rewrite derive1E derive_val mulrN1 opprK.
+by rewrite -EFinB ltry.
+Qed.
+
+End gauss_integral_preliminaries.
+
+Section u_properties.
+
+Lemma integral0y_u0 :
```
Comment (affeldt-aist) [inline theories/showcase/gauss_integral_unbounded.v:90]: The function `u` is internal to the module `gauss_integral_proof`.
It therefore seems strange to introduce a lemma `integral0y_u0` that exposes the identifier `u`.
Maybe this new lemma should itself be inside a module.

File: theories/showcase/gauss_integral_unbounded.v [hunk 3]
```diff
@@ -0,0 +1,590 @@
...
+  by rewrite lerNl oppr0 sqr_ge0.
+by rewrite integral0y_u0 ltry.
+Qed.
+
+End u_properties.
+
+Section gauss_dominates.
+Local Open Scope ring_scope.
+
+Definition max_x : R := (Num.sqrt 2)^-1.
```
Comment (affeldt-aist) [inline theories/showcase/gauss_integral_unbounded.v:124]: `max_x` looks ill-names: it talks about `x` which is undefined and sounds generic even though it is technical.

File: theories/showcase/gauss_integral_unbounded.v [hunk 4]
```diff
@@ -0,0 +1,590 @@
...
+From mathcomp Require Import lebesgue_measure numfun lebesgue_integral.
+From mathcomp Require Import interval_inference real_interval realfun derive.
+From mathcomp Require Import trigo ftc gauss_integral.
+
+(**md**************************************************************************)
+(* # Improper Integral                                                        *)
+(* # calculating gauss integrals by limit                                     *)
+(* ref: https://www.phys.uconn.edu/~rozman/Courses/P2400_17S/                 *)
+(*                                            downloads/gaussian-integral.pdf *)
+(*  u (x : R) (y : R) : R == a function dominates gauss_fun over `[0, +oo[    *)
```
Comment (affeldt-aist) [inline theories/showcase/gauss_integral_unbounded.v:13]: The function `u` is not really defined in this file. Maybe this piece of documentation should go to `gauss_integral.v`.

Comment (affeldt-aist) [reply theories/showcase/gauss_integral_unbounded.v:13]: And maybe the function `u` in `gauss_integral.v` could be renamed to better match its documentation. By the way, what "dominates" mean here?

File: theories/showcase/gauss_integral_unbounded.v [hunk 5]
```diff
@@ -0,0 +1,590 @@
...
+End u_properties.
+
+Section gauss_dominates.
+Local Open Scope ring_scope.
+
+Definition max_x : R := (Num.sqrt 2)^-1.
+
+Let max_x_ge0 : (0 <= max_x). Proof. by rewrite invr_ge0. Qed.
+
+Definition max_y : R := 2 / Num.sqrt 2 / Num.sqrt (expR 1).
```
Comment (affeldt-aist) [inline theories/showcase/gauss_integral_unbounded.v:128]: Like `max_x`, `may_y` looks ill-named. It should also be accompanied by a piece of documentation if it is intended to be exposed. It suffices to explain its role in the proof.
